US07470723B2
To a stirred solution of (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(4-methoxy-phenyl)-methanol (2.03 g crude, 7.5 mmol) in CH2Cl2 (20 mL) at room temperature was added activated MnO2 powder (3.4 g, 39 mmol) and kept adding 2˜3 equivalents of MnO2 every 3˜5 h until HPLC showed disappearance of the starting material. The black suspension was filtered through a Celite pad, concentrated in vacuo to give (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(4-methoxy-phenyl)-methanone as an brown oil (2.09 g, 103% crude yield): 1H NMR (CDCl3) δ 3.88 (s, 3H, OCH3), 4.30-4.34 (m, 4H, CH2CH2), 6.91-6.97 (m, 3H, Ar), 7.26-7.36 (m, 2H, Ar), 7.78-7.81 (m, 2H, Ar). The product was used in the next step without further purification.

reactant | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(4-methoxy-phenyl)-methanol | 7.5 mmol, 2.03 g | O1CCOC2=C1C=CC(=C2)C(O)C2=CC=C(C=C2)OC | C16H16O4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 39 mmol, 3.4 g | O=[Mn]=O
catalyst | MnO2 | 2˜3 equivalents | O=[Mn]=O
product | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(4-methoxy-phenyl)-methanone | O1CCOC2=C1C=CC(=C2)C(=O)C2=CC=C(C=C2)OC | C16H14O4
